US05457192
0.25 g (1.98 mmol) of 1,6-anhydro-3,4-dideoxy-β-D-threo-hex-3-enopyranose were dissolved in 2 ml of pyridine, and 0.34 g (3.00 mmol) of mesyl chloride were dropped in this mixture under ice-water cooled conditions. The resultant solution was stirred at 0° C. for 3.5 hours and then stored in a refrigerator overnight. This reaction solution was added to 1N hydrochloric acid under ice-water cooled conditions, and extraction was performed using diethyl ether. The resultant diethyl ether solution was washed with an aqueous sodium hydrogencarbonate solution and then with an aqueous sodium chloride solution. The washed solution was dried using magnesium sulfate. The solvent was distilled at a reduced pressure, and the residue was recrystallized using a solvent mixture of hexane, diethyl ether, and ethyl acetate (a mixing ratio of 5:5:2), thereby obtaining 0.26 g (yield: 62.6%) of 1,6-anhydro-3,4-dideoxy-2-O-mesyl-β-D-threo-hex-3-enopyranose.

reactant | 1,6-anhydro-3,4-dideoxy-β-D-threo-hex-3-enopyranose | 1.98 mmol, 0.25 g | [C@H]12[C@@H](O)C=C[C@H](O1)CO2 | C6H8O3
reactant | mesyl chloride | 3.00 mmol, 0.34 g | S(=O)(=O)(C)Cl | CH3ClO2S
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
product | 1,6-anhydro-3,4-dideoxy-2-O-mesyl-β-D-threo-hex-3-enopyranose | 0.26 g, yield: 62.6% | S(=O)(=O)(C)O[C@@H]1[C@H]2O[C@@H](C=C1)CO2 | C7H10O5S
